US07423030B2
11.3. 1-Chloro-4-(3,4-dimethoxyphenyl)-7-methoxyphthalazine
This compound is obtained according to the procedure described in 1.3. by reacting 4-(3,4-dimethoxyphenyl)-7-methoxy-2H-phthalazin-1-one with phosphoryl chloride.

reactant | 4-(3,4-dimethoxyphenyl)-7-methoxy-2H-phthalazin-1-one | COC=1C=C(C=CC1OC)C1=NNC(C2=CC(=CC=C12)OC)=O | C17H16N2O4
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-4-(3,4-dimethoxyphenyl)-7-methoxyphthalazine | ClC1=NN=C(C2=CC=C(C=C12)OC)C1=CC(=C(C=C1)OC)OC | C17H15ClN2O3
